Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
preterm contractions, depression, anxiety
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ gravida 7 para ___ at 29w4d with a long history 
of anxiety and depression presenting to OB/GYN triage for 
concern of worsening depression and also for evaluation of 
preterm contractions.

The patient states that she started feeling contractions around 
3:00PM on ___.  The contractions eventually improved and 
she is currently only feeling them as very mild cramping 
occurring approximately every ___ minutes.  She denies any 
vaginal bleeding, loss of fluid.  She has been feeling baby move 
well today.

However, on further history taking, the patient endorses that 
the reason that she called is because she is feeling very 
overwhelmed.  She endorses symptoms of major depression that 
have been present since she was a teenager.  She states that she 
is having feelings that her life is not worth living and she 
does not deserve to be alive.  She denies any suicidal ideation 
and expresses a desire to continue to live for her children but 
feels that the depressive symptoms are becoming overwhelming and 
that sometimes she feels as if she should never wake up.  She 
states that she has previously been treated with depression with 
Zoloft however she stopped taking the medication last ___ 
secondary to insomnia.  Prior to pregnancy her depression was 
treated with Paxil which she felt was helping but she stopped it 
when she found out that she was pregnant.  She states that the 
Zoloft is not working.

Her psychiatric history is significant for a long history of 
depression and anxiety and history of sexual abuse by her 
father. She states that this abuse started when she was 
approximately ___ years of age until about age ___.  She 
reports 2 suicide attempts during her teenage year both by 
consuming an overdose of medical pills.  She states that she had 
one additional episode where she perseverated on developing a 
plan however never acted on it.

She feels that she has limited supports at home.  She feels like 
her mother and husband blame her from having these feelings and 
do not understand that she cannot will herself out of the 
depression.

She sees Dr. ___ has only had was visit on ___.

 
Past Medical History:
PNC: 
- ___ ___ by ___ of ___
- Labs Rh positive/Abs negative/Rub immune/RPR nonreactive/HBsAg
negative/HIV negative/GBS unknown
- Screening: CF neg, Low risk panorama 
- FFS: Biometric measurement corresponding to reported ___, mild
hydronephrosis (5.5 mm) with mild caliectasis.  No cystic or
dysplastic changes.  The ureters are not dilated and the bladder
appeared normal.  An echogenic focus also noted.
- GTT: Failed GLT, 3 hour GTT to be done 
- U/S: Last ultrasound was a rpt anatomy study done after a
finding of renal reflux seen on full fetal survey, also for
advanced maternal age, EFW 57 percentile, 730 g, scan done at 24
weeks and 1 day.
- Issues
*) Anxiety and depression: Please see above
*) Anemia: Found to have a hematocrit of 31.2, routed a
prescription for iron supplements

OBHx:
- G1: ___, ectopic pregnancy, treated with methotrexate
- ___, Spontaneous vaginal delivery
- ___, spontaneous vaginal delivery
- ___, 40 weeks 1 day, spontaneous vaginal delivery
- ___, 13 week TAB
- ___, 8 weeks 6 days TAB
 
GynHx:
-Denies abnormal Pap, fibroids, Gyn surgery, STIs
 
PMH: Denies
 
PSH: Denies

 
Social History:
denies T/E/D
 
Physical Exam:
 Physical Exam on Discharge:  
 CONSTITUTIONAL: normal  
 HEENT: normal, MMM  
 NEURO: alert, appropriate, oriented x 4  
 RESP: no increased WOB  
 HEART: extremities warm and well perfused  
 ABDOMEN: gravid, non-tender  
 EXTREMITIES: non-tender, no edema  
 FHR: present at a normal rate  

 
Pertinent Results:
___ 09:10PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-80 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:10PM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 09:10PM URINE  MUCOUS-OCC
 
Brief Hospital Course:
Ms. ___ was admitted to the Antepartum service. She 
initially had contractions which resolved with hydration. Her 
cervix was found to be closed internally and had a normal AFI. 
She was seen by Social Work and Psychiatry for depression and 
possible suicidal ideation, and was recommended for outpatient 
follow-up with Psychiatry. She was restarted on her home 
sertraline prior to discharge. On hospital day 1 she was 
discharged home in stable condition with outpatient follow-up 
scheduled.
 
Medications on Admission:
1.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Medications:
1.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
depression, anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to Antepartum for monitoring for your 
depression and anxiety as well as preterm contractions. You were 
seen by Psychology and Social Work, and Psychology recommended 
follow-up as an outpatient. The team feels that you are safe to 
be discharged home. Please attend all of your appointment as 
scheduled. Your contractions and cervical exam remained stable 
and you are now safe to be discharged home.  
 Please call the office for:  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Abdominal pain  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns  

 
Followup Instructions:
___